US05107026
Preparation of 3-[(3,4-Difluorophenyl)ethynyl]aniline
A multinecked flask as described in Example 1 was charged with 5.0 g (0.026 mol) of 3,4-difluorobromobenzene, 50 ml of dried, degassed triethylamine, 3.0 g (0.026 mol) of 3-aminophenylacetylene, 0.07 g (0.1 mmol) of bis(triphenylphosphine) palladium II chloride, 0.1 g (0.38 mmol) of triphenylphosphine, and 0.02 g (0.1 mmol) of cuprous iodide. The reaction mixture was heated at 65° C. for 36 hours at which point gas chromatography showed the reaction to be complete. The product mixture was cooled to room temperature and diluted with 50 ml of ether. Filtration of the insoluble triethylamine hydrobromide salt by-product followed by concentration of the filtrate gave the crude product (4.2 g, 78% yield) as a off-white solid. Short path distillation of the crude product under reduced pressure gave 2.38 g (0.01 mol, 38% yield) of the purified product as a colorless liquid which crystallized on standing.

reactant | 3,4-difluorobromobenzene | 0.026 mol, 5.0 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenylacetylene | 0.026 mol, 3.0 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | bis(triphenylphosphine) palladium | 0.1 mmol, 0.07 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | triphenylphosphine | 0.38 mmol, 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-[(3,4-Difluorophenyl)ethynyl]aniline | 0.01 mol, 2.38 g, 38% yield | FC=1C=C(C=CC1F)C#CC=1C=C(N)C=CC1 | C14H9F2N
